US06951879B2
In analogy to example 19.1, 5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol and N-(Methoxyethyl)methylamine CH2Cl2. were converted to yield {5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl}-(2-methoxy-ethyl)-methyl-amine as brown oil, MS: 382 (MH+).

reactant | 5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)C#CCCCO | C19H15FOS
reactant | N-(Methoxyethyl)methylamine CH2Cl2 | COCCNC.C(Cl)Cl
product | {5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl}-(2-methoxy-ethyl)-methyl-amine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)C#CCCCN(C)CCOC | C23H24FNOS
